US08859541B2
D2a) [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]boronic acid
A mixture of tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate C2a (2.5 g, 5.45 mmol), bis(neopentyl glycolato)diboron (2.46 g, 10.9 mmol), KOAc (1.61 g, 16.4 mmol), 1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (399 mg, 0.55 mmol) and DMSO (20 ml) is stirred under argon atmosphere for 39 h at 65° C. The mixture is diluted with water and extracted with DCM. The combined organic layers are dried over MgSO4, concentrated in vacuo and the product purified by RP HPLC. Yield: 1.73 g (75%). HPLC-MS: M+H=424; tR=1.59 min (*Method—5).

reactant | tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)Br)C#CC1=CC=CC=C1)C)=O | C22H24BrN3O3
reactant | bis(neopentyl glycolato)diboron | 10.9 mmol, 2.46 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | KOAc | 16.4 mmol, 1.61 g | CC(=O)[O-].[K+]
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.55 mmol, 399 mg | Cl[Pd]Cl
product | [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]boronic acid | CN(C(C(=O)NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)B(O)O)C)C(=O)OC(C)(C)C | C22H26BN3O5
